US03998971
N-(2-vinyloxyethyl)-α-methyl-β-(3-trifluoromethylphenyl)-ethyl amine was prepared from 3-trifluoromethylphenylacetone and 2-aminoethylvinylether according to the method of Example 1. The product was obtained in 32% yield as a colorless oil, b.p. 81°-83°/0.5 mm; ND25 1.4650.

reactant | 3-trifluoromethylphenylacetone | FC(C=1C=C(C=CC1)CC(C)=O)(F)F | C10H9F3O
reactant | 2-aminoethylvinylether | NCCOC=C | C4H9NO
product | N-(2-vinyloxyethyl)-α-methyl-β-(3-trifluoromethylphenyl)-ethyl amine | 32% yield | C(=C)OCCNC(CC1=CC(=CC=C1)C(F)(F)F)C | C14H18F3NO
